US06583135B2
Preparation of tert-Butyl 9,10-Dichloro-6-(2-phenoxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
To a solution of tert-butyl 9,10-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.20 g, 0.56 mmol) in DMF (4 mL), sodium hydride (60% dispersion in mineral oil, 34 mg, 0.84 mmol) was added. After 25 min, β-bromophenetole (0.15 mL, 1.1 mmol) was added. The reaction was quenched with saturated aqueous NH4Cl after 2 h and extracted with EtOAc (3×15 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified by column chromatography (Biotage, 40S) with heptane/EtOAc (17:3) and triturating with hexanes gave 35 mg (13%) of a white solid: mp 175.0-176.0° C.; 1H NMR (400 MHz, DMSO) δ 7.53 (d, J=8.8 Hz, 1H), 7.24 (m, 3H), 6.90 (t, J=7.6 Hz, 1H), 6.81 (d, J=7.6 Hz, 1H), 6.81 (d, J=7.9 Hz, 2H), 4.60 (m, 2H), 4.17 (m, 2H), 3.67 (m, 2H), 3.61 (m, 2H), 3.14 (t, J=5.3 Hz, 2H), 1.41 (s, 9H); IR (diffuse reflectance) 2967, 2931, 1676, 1493, 1448, 1422, 1406, 1363, 1298, 1245, 1221, 1167, 1118, 754, 690 cm−1; MS (EI) m/z 474 (M+), 333, 95, 92, 79, 78, 76, 67, 64, 57, 55; HRMS (FAB) calcd for C25H28Cl2N2O3+H 475.1555, found 475.1559; Anal. Calcd for C25H28Cl2N2O3: C, 63.16; H, 5.94; N, 5.89; found: C, 63.47; H, 6.11; N, 5.84.

reactant | tert-butyl 9,10-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.56 mmol, 0.20 g | ClC1=C(C=2C3=C(NC2C=C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C17H20Cl2N2O2
reactant | sodium hydride | 0.84 mmol, 34 mg | [H-].[Na+]
reactant | β-bromophenetole | 1.1 mmol, 0.15 mL | BrCCOC1=CC=CC=C1 | C8H9BrO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 9,10-Dichloro-6-(2-phenoxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 35 mg, 13% | ClC1=C(C=2C3=C(N(C2C=C1)CCOC1=CC=CC=C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C25H28Cl2N2O3
